US09340538B2
Step C: (2R,3S)-2-methylmorpholine-3-carboxylic acid
A mixture of (2R,3S)-benzyl 4-benzyl-2-methylmorpholine-3-carboxylate (10 g, 30.76 mmol) and Pd/C (10%, 1 g) in anhydrous methanol (100 mL) was stirred at 25° C. for 12 hours under H2. The mixture was filtered and the filtrate was concentrated in vacuo to give the title compound as a white solid (3.8 g, 85%). The compound was characterized by the following spectroscopic data:

reactant | (2R,3S)-benzyl 4-benzyl-2-methylmorpholine-3-carboxylate | 30.76 mmol, 10 g | C(C1=CC=CC=C1)N1[C@@H]([C@H](OCC1)C)C(=O)OCC1=CC=CC=C1 | C20H23NO3
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | (2R,3S)-2-methylmorpholine-3-carboxylic acid | 3.8 g, 85% | C[C@@H]1[C@H](NCCO1)C(=O)O | C6H11NO3
